US06355653B1
7-Bromo-2-(5,6-dihydro-4H-pyran-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%): 295 (M+, 100), was prepared in accordance with the general method of example 63 from 4-bromo-pyridine-2,6-diamine, O-mesitylene-sulfonylhydroxylamine, and 5,6-dihydro-4H-pyran-2-carbaldehyde. The purification was performed with reversed phase HPLC eluting with an acetonitrile/water gradient.

reactant | 4-bromo-pyridine-2,6-diamine | BrC1=CC(=NC(=C1)N)N | C5H6BrN3
reactant | O-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | 5,6-dihydro-4H-pyran-2-carbaldehyde | O1C(=CCCC1)C=O | C6H8O2
product | 7-Bromo-2-(5,6-dihydro-4H-pyran-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | BrC1=CC=2N(C(=C1)N)N=C(N2)C=2OCCCC2 | C11H11BrN4O
